US07632930B2
(2a) Allyl 4-O-β-D-glucopyranosyl-D-glucopyranoside
α-D-cellobiose octacetate (48.59 g, 71.6 mmol) was dissolved in methylene chloride (600 mL), and allyl alcohol (29 mL, 0.43 mol) and trimethylsilyl trifluoromethanesulfonate (16 mL, 86.0 mmol) were added thereto under ice-cooling, followed by stirring of the mixture at room temperature for 1.5 hours. Water (200 mL) was added to the reaction mixture and the mixture was extracted with methylene chloride (200 mL). After the extract was washed with saturated brine (100 mL) and dried with anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The residue was dissolved in methanol (300 mL) and sodium methoxide (28 mL, 0.14 mol) was added thereto under ice-cooling, followed by stirring of the mixture at room temperature for 2 hours. After Dowex 50w×8 was added thereto until the reaction mixture became neutral and it was filtered, the solvent was distilled off under reduced pressure. The residue was purified using silica gel flash column chromatography (ethyl acetate:methanol:water, 8:2:1, V/V) to obtain the desired title compound (24.8 g, yield 91%) as pale yellow amorphous matter.

reactant | α-D-cellobiose | C([C@@H]1[C@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](O[C@@H]([C@@H]([C@H]2O)O)O)CO)O)O)O)O | C12H22O11
reactant | allyl alcohol | 0.43 mol, 29 mL | C(C=C)O | C3H6O
reactant | trimethylsilyl trifluoromethanesulfonate | 86.0 mmol, 16 mL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | sodium methoxide | 0.14 mol, 28 mL | C[O-].[Na+]
solvent | methylene chloride | 600 mL | C(Cl)Cl | CH2Cl2
solvent | Water | 200 mL | O | H2O
product | Allyl 4-O-β-D-glucopyranosyl-D-glucopyranoside | 24.8 g, yield 91% | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@H]1[C@@H]([C@H](C(OCC=C)O[C@@H]1CO)O)O | C15H26O11
